US04680301
To a mixture of 2 g of 6-amino-2-tert-butyl-5-[thiomorpholin-4-yl]benzothiazole and 2 g of anhydrous potassium carbonate in 150 ml of chloroform at 0° is added 0.6 ml of thiophosgene in 5 ml chloroform, under stirring. After 4 hours of stirring at ambient temperature the mixture is filtered. The filtrate is evaporated to a solid which is purified by silica gel column chromatography. The column is eluted with hexane/methylenechloride (1:1) to give 2-tert-butyl-6-isothiocyanato-5-[thiomorpholin-4-yl]benzothiazole, melting at 155°-159°.

reactant | 6-amino-2-tert-butyl-5-[thiomorpholin-4-yl]benzothiazole | 2 g | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CCSCC1 | C15H21N3S2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophosgene | 0.6 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-6-isothiocyanato-5-[thiomorpholin-4-yl]benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCSCC2 | C16H19N3S3
